US07402581B2
3-Cyano-N-[(2S)-2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methyl-1-naphthamide (see WO 00/02859; 1.0 g, 2.3 mmol) was dissolved in CH2Cl2 (10 mL) and to the resultant solution were added azetidin-3-ol hydrochloride (0.24 g, 2.2 mmol) and triethylamine (0.30 mL, 2.2 mmol). After stirring for 40 min, sodium triacetoxyborohydride (0.65 g, 3.1 mmol) was added and the solution was stirred at room temperature for 3 h. The solvent was removed by evaporation and the residue was partitioned between saturated aqueous NaHCO3 solution and ethyl acetate. The solvent was removed by evaporation and the residue was dissolved in hydrochloric acid (1M). The solution was washed with CH2Cl2, alkalised with aqueous NaOH (2M) and then extracted with CH2Cl2. The solvent was removed by evaporation and there was obtained 0.85 g (80%) of 3-cyano-N-[(2S)-2-(3,4-dichlorophenyl)-4-(3-hydroxyazetidin-1-yl)butyl]-N-methyl-1-naphthamide as a white solid. 1H NMR (400 MHz, DMSO-d6): 0.8-4.4 (cm, 16H), 6.4-8.2 (cm, 8H), 8.6 (d, 1H); LCMS: m/z 482 (M+1)+.

reactant | 3-Cyano-N-[(2S)-2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methyl-1-naphthamide | 2.3 mmol, 1.0 g | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)N(C)C[C@@H](CC=O)C1=CC(=C(C=C1)Cl)Cl | C23H18Cl2N2O2
reactant | azetidin-3-ol hydrochloride | 2.2 mmol, 0.24 g | Cl.N1CC(C1)O
reactant | triethylamine | 2.2 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 3.1 mmol, 0.65 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyano-N-[(2S)-2-(3,4-dichlorophenyl)-4-(3-hydroxyazetidin-1-yl)butyl]-N-methyl-1-naphthamide | 0.85 g, 80% | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)N(C)C[C@@H](CCN1CC(C1)O)C1=CC(=C(C=C1)Cl)Cl | C26H25Cl2N3O2
